US08754079B2
XXXII.4 2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-1-nitro-benzene
0.213 g DTAD was added into a solution of 5-fluoro-2-nitro-phenol, 0.105 g 4,4-difluorocyclohexanol, 0.25 g triphenylphospine in 2 ml of anhydrous methylene chloride at rt. The reaction mixture was stirred at rt overnight when TLC analysis indicated the consumption of the 5-Fluoro-2-nitro-phenol. The reaction mixture was diluted with methylene chloride (50 ml) and washed with 10% potassium carbonate solution. The aqueous layer was extracted with methylene chloride (2×25 ml) and the combined organics washed with sodium hydrogecarbonate solution (25 ml). The organic layer was passed through a phase separator and concentrated in vacuo. Purification was achieved by silica gel column chromatography (solvent: 100%→1:1 iso-hexane/EtOAc).

reactant | 5-fluoro-2-nitro-phenol | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 4,4-difluorocyclohexanol | 0.105 g | FC1(CCC(CC1)O)F | C6H10F2O
reactant | triphenylphospine | 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-1-nitro-benzene | FC1(CCC(CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])F | C12H12F3NO3
